Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1](=[C:2]=[C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],81.5842739095442
[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:12])([H:10])[H:11])([H:8])([H:9])[H:13].[C:5](#[N:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],86.2391014293735
[C:1]([C:2](=[O:3])[C:4]([H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[O:5]=[C:6]([O:7][H:12])[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],68.9408853288905
[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6]>>[O:1]=[C:2]=[C:5]=[N:6][N+:4]#[C-:3],91.332645817434
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([O:7]/[C:6](=[C:3]1/[C:4]([H:11])([H:12])[N:5]1[H:13])[H:14])([H:9])[H:10])[H:8],42.2573633990423
[C:3](=[C:4]([O:5][H:8])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12].[O:1]=[C:2]([H:9])[H:10]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],9.2525046578533
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])[H:10].[C:6](#[N:7])[H:9],55.970022870316
[C:1]1([H:8])([H:10])[C:6]([C:3]([O:2][H:9])([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])=[N:7]1>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],61.0000865108618
[N:1]([C:2]1=[C:3]([H:10])[N:4]([H:11])/[C:5]1=[C:7](\[O:6][H:12])[H:13])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[c:7]1[H:13])([H:8])[H:9],97.46619545008099
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@:4]1([O+:5]=[C-:6][H:12])[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12],39.295345816894
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O+:1]1=[C:4]([H:10])[C:3](/[N:5]=[C:6](\[O:7][H:11])[H:12])([H:9])[C-:2]1[H:8],82.91187938511509
[C:1](=[C:2]([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])[H:10].[O:3]([H:9])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],49.5482899095289
[C:1]([C:2]([C:5]([N:3]([C:4]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])=[O:6])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],105.81327557194984
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[C:5]=[N:6][H:10])[H:11])([H:7])([H:8])[H:9],71.3261873931298
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C:2]([C:3]([C@@:4]1([C:7][H:15])[C:5]([H:12])([H:13])[O:6]1)([H:10])[H:11])([H:9])[H:14])[H:8],76.5485739216352
[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:12])[H:14])[H:11])([H:8])([H:9])[H:10].[O:7]([H:13])[H:15]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],50.358292557782
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:6]([O:7][H:15])([H:13])[H:14])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([H:11])[H:12],75.3148497875838
[C+:1]([N:2]([C:3](=[C:4]=[N-:5])[H:12])[H:11])([H:8])[H:10].[C:6]=[N:7][H:9]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],1.834469544328499
[C-:6]#[O+:7].[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],52.5447229032591
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[O:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])[H:10],57.92144323306941
[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([H:9])([H:10])[H:12])([H:6])([H:7])[H:8].[C:3](=[O:4])=[N:5][H:11],72.7052146340763
[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C:1]([N:2]=[C:3]=[O:4])([H:5])([H:6])[H:7].[H:8][H:9],70.4975646388075
[C:4](=[O:5])=[N:6][H:9].[N:1]([C:2](=[O:3])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:9])[H:10])([H:7])[H:8],65.6882229801916
[O:1]=[C:2]([C:4]([C:3]([H:7])([H:8])[H:9])([H:10])[H:11])[C:5]#[C:6][H:12]>>[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],72.6706559179551
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:11])[H:12])([O+:6]=[C-:5][H:13])[H:10])([H:7])([H:8])[H:9],67.4844110419695
